US06291511B1
Step A: 6-Bromo-2-anisidine.
To a cooled solution of 2-anisidine (2.7 mL, 23.7 mmol) in cetic acid (20 mL) at 10° C. was slowly added a solution of bromine (1.22 mL, 23.7 mmol) in acetic acid (10 mL) over a 10 min period. After stirring for 10 min, the solvents were removed by rotoevaporation and the residue dissolved in ethyl acetate. This solution was successively washed with saturated sodium bicarbonate solution and dried over anhydrous magnesium sulfate. After filtering, the solvents were removed by rotoevaporation and the product purified by flash column chromatography on silica gel eluted with 45% methylene chloride in hexanes to yield 3.44 g (72% yield) of the title compound.

reactant | 2-anisidine | 23.7 mmol, 2.7 mL | COC=1C(=CC=CC1)N | C7H9NO
reactant | bromine | 23.7 mmol, 1.22 mL | BrBr | Br2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 6-Bromo-2-anisidine | 3.44 g, 72% yield | BrC=1C=CC=C(C1OC)N | C7H8BrNO
